US03939202
A suspension of zinc (59 g) in benzene (400 ml) is heated up to the reflux temperature, and a mixture of ethyl bromoacetate (120 g) and 2,6,10-trimethyl-5,9-undecadienal (135 g) is added thereto. The resulting mixture is refluxed for 2 hours, cooled and poured into 5% aqueous solution of sulfuric acid. The benzene layer is washed with water, dried and evaporated. The residual material is distilled under reduced pressure to give ethyl 3,7,11-trimethyl-6,10-dodecadien-2-ol-1-carboxylate (100 g) as a pale yellow oil. B.P. 139° to 142°C/0.08 mm Hg. IR: 3480, 1030 cm-1 (OH); 1720, 1180cm-1 (COO). NMR (carbon tetrachloride): δ 1.25 (t), 1.58 (s), 1.65 (s), 1.95 (m), 2.38 (m), 4.10 (m), 5.05 (m).

reactant | ethyl bromoacetate | 120 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2,6,10-trimethyl-5,9-undecadienal | 135 g | CC(C=O)CCC=C(CCC=C(C)C)C | C14H24O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 59 g | [Zn] | Zn
product | ethyl 3,7,11-trimethyl-6,10-dodecadien-2-ol-1-carboxylate | 100 g | CC(C(CC(=O)OCC)O)CCC=C(CCC=C(C)C)C | C18H32O3
